US07875645B2
rac-2-[1-(2,5-Dichloro-phenyl)-ethyl]-4,5-dihydro-1H-imidazole was prepared from rac-2-(2,5-dichloro-phenyl)-propionitrile and ethylene diamine in analogy to Example 19 b): white solid; MS (ISP): 243.0 ((M+H)+.).

reactant | rac-2-(2,5-dichloro-phenyl)-propionitrile | ClC1=C(C=C(C=C1)Cl)C(C#N)C | C9H7Cl2N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-[1-(2,5-Dichloro-phenyl)-ethyl]-4,5-dihydro-1H-imidazole | ClC1=C(C=C(C=C1)Cl)C(C)C=1NCCN1 | C11H12Cl2N2
